US09085572B2
5-(Cyanomethyl)pyridine-2-carboxylic acid ethyl ester
10.5 g (52.6 mmol) 5-(chloromethyl)pyridine-2-carboxylic acid ethyl ester [preparation according to H. Barth et al., Liebigs Ann. Chem. 1981, 2164-2179] are initially introduced into 75 ml anhydrous DMF and 2.58 g (52.6 mmol) sodium cyanide are added in portions at RT in the course of 3 h. The mixture is then introduced on to 500 ml saturated ammonium chloride solution and extracted with methylene chloride (four times with 100 ml each time). The combined organic phases are dried over sodium sulfate and concentrated and the residue is purified by chromatography over silica gel (mobile phase: cyclohexane→cyclohexane/ethyl acetate 1:4). 3.80 g (38% of th.) of the title compound are obtained.

reactant | 5-(chloromethyl)pyridine-2-carboxylic acid ethyl ester | 52.6 mmol, 10.5 g | C(C)OC(=O)C1=NC=C(C=C1)CCl | C9H10ClNO2
reactant | sodium cyanide | 52.6 mmol, 2.58 g | [C-]#N.[Na+]
reactant | ammonium chloride | 500 ml | [Cl-].[NH4+]
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
product | 5-(Cyanomethyl)pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC=C(C=C1)CC#N | C10H10N2O2
